US08753857B2
3-Isothiocyanato-4-methoxy-pyridine
To a stirred mixture of 3-amino-4-methoxypyridine (2.01 g, 16.2 mmol) and NaHCO3 (4.08 g, 48.6 mmol) in CHCl3 and water (1:1, 50 mL) at 4° C. was added thiophosgene (1.5 mL, 19.6 mmol) dropwise. After completion of the addition, the ice bath was removed. The mixture was stirred for 4 hours, the organic layer was separated, and the aqueous layer was extracted with CH2Cl2. The combined organic phases were washed with water, dried over Na2SO4, filtered, and concentrated to give the title compound as brown solid.

reactant | 3-amino-4-methoxypyridine | 16.2 mmol, 2.01 g | NC=1C=NC=CC1OC | C6H8N2O
reactant | NaHCO3 | 48.6 mmol, 4.08 g | C(=O)(O)[O-].[Na+]
reactant | thiophosgene | 19.6 mmol, 1.5 mL | C(=S)(Cl)Cl | CCl2S
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 mL | O | H2O
product | 3-Isothiocyanato-4-methoxy-pyridine | N(=C=S)C=1C=NC=CC1OC | C7H6N2OS
